US04128658
A mixture of 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine (2.14 g) and N-cyano-N'-(2-methoxyethyl)-carbamimidothioic acid, methyl ester (1.73 g) was heated on a steam bath for 6.5 hr. Vacuum was applied occasionally to remove methanethiol. The crude product was purified by chromatography (silica gel/methanol) to give N-cyano-N'-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N"-(2-methoxyethyl)guanidine (1.4 g). Analysis Found: C, 50.51; H, 7.20; N, 19.41, C15H25N5O2S.H2O requires: C, 50.42; H, 7.50; N, 19.60%.

reactant | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine | 2.14 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | N-cyano-N'-(2-methoxyethyl)-carbamimidothioic acid, methyl ester | 1.73 g | C(#N)NC(=NCCOC)SC | C6H11N3OS
product | N-cyano-N'-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N"-(2-methoxyethyl)guanidine | 1.4 g | C(#N)NC(=NCCOC)NCCSCC=1OC(=CC1)CN(C)C | C15H25N5O2S
